US09212190B2
To a solution of (2-[[(4-isocyanato-4-methylcyclohexyl)oxy]methoxy]ethyl)trimethylsilane (1.5 g, 5.25 mmol, 1.00 equiv) in THF (30 mL) was added hydrochloric acid (6 N, 3.0 mL) and the resulting solution was stirred for 2 h at room temperature. Upon completion, the resulting mixture was concentrated under vacuum to give trans-4-amino-4-methylcyclohexanol hydrochloride (1.0 g, crude) as a white solid.

reactant | (2-[[(4-isocyanato-4-methylcyclohexyl)oxy]methoxy]ethyl)trimethylsilane | 5.25 mmol, 1.5 g, 1.00 equiv | N(=C=O)C1(CCC(CC1)OCOCC[Si](C)(C)C)C | C14H27NO3Si
reactant | hydrochloric acid | 6 N, 3.0 mL | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | trans-4-amino-4-methylcyclohexanol hydrochloride | 1.0 g | CC1(CCC(CC1)O)N.Cl | InChI=1S/C7H15NO.ClH/c1-7(8)4-2-6(9)3-5-7;/h6,9H,2-5,8H2,1H3;1H
